US09403835B2
Step 2: (6-chloro-5-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-(2-methylamino-ethoxy)-phenyl]-methanone hydrochloride
A 4M solution of HCl in 1,4-dioxane (456 μL; 1.83 mmol; 10 eq.) was added to solution of {2-[2-(6-chloro-5-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-ethyl}-methyl-carbamic acid tert-butyl ester (92 mg; 0.18 mmol; 1 eq.) in DCM (2 mL) and the reaction mixture was stirred at room temperature for 30 minutes then concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (15 mg, 19%) as a yellow solid. 1H NMR (DMSO-d6) δ 9.55-9.45 (d, J=5.0 Hz, 1H), 9.01-8.78 (s, 2H), 7.43 (ddd, J=8.4, 6.7, 4.5 Hz, 1H), 7.19 (dd, J=11.1, 2.3 Hz, 1H), 6.95 (td, J=8.5, 2.3 Hz, 1H), 4.82 (d, J=5.8 Hz, 2H), 4.58 (d, J=12.5 Hz, 2H), 4.36 (t, J=4.5 Hz, 2H), 3.26 (t, J=5.2 Hz, 2H), 2.60 (s, 1.5H), 2.57-2.51 (m, 4.5H). HPLC (max plot) 99.2%, Rt 2.48 min. UPLC/MS: (MS+) 404.3 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 1.83 mmol, 456 μL, 10 eq. | O1CCOCC1 | C4H8O2
reactant | {2-[2-(6-chloro-5-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.18 mmol, 92 mg, 1 eq. | C(C)(C)(C)OC(N(C)CCOC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=CN3N2)Cl)C)C1)=O | C24H27ClFN5O4
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-5-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-(2-methylamino-ethoxy)-phenyl]-methanone hydrochloride | 15 mg, 19% | Cl.ClC1=CN2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=C(C=C3)F)OCCNC | InChI=1S/C19H19ClFN5O2.ClH/c1-11-15(20)9-26-18(23-11)14-8-25(10-16(14)24-26)19(27)13-4-3-12(21)7-17(13)28-6-5-22-2;/h3-4,7,9,22H,5-6,8,10H2,1-2H3;1H
